plaintext
* SPICE Netlist
VDD 66 0 DC VDD
? Missing component
M1 5 3 5 5 NMOS W=W0
M2 3 3 5 5 NMOS W=W0
M3 3 3 5 5 NMOS W=W0
M4 3 3 5 5 NMOS W=W0
M5 3 3 5 5 NMOS W=W0
M6 3 3 5 5 NMOS W=W0
I2REF 3 2 DC 2*IREF
IREF2 3 2 DC IREF/2
.END
